US05681838
Methyl N-(2-(3-(4-(aminoiminomethyl)phenyl)acryloylamino)ethyl)-N-(9-fluorenylmethoxycarbonyl)aminoacetate hydrochloride
0.7 g (6 mmol) of N-ethylmorpholine and 0.8 g (4 mmol) of DCC are added, at 0° C., to 0.7 g (3 mmol) of 4-amidinocinnamic acid hydrochloride, 1.2 g (3 mmol) of methyl N-(2-aminoethyl)-N-(9-fluorenylmethoxycarbonyl)aminoacetate hydrochloride and 0.4 g (3 mmol) of hydroxybenzotriazole in 20 ml of dimethylformamide. The mixture is stirred at 0° C. for one hour and then at room temperature for 20 h, filtered from the precipitated urea and concentrated. The residue is taken up in ethyl acetate and washed with sodium hydrogen carbonate solution, and the organic phase is dried and concentrated. The product is chromatographed, for purification, on Sephadex LH20 using an homogeneous mixture of butanol/glacial acetic acid/water.

reactant | N-ethylmorpholine | 6 mmol, 0.7 g | C(C)N1CCOCC1 | C6H13NO
reactant | DCC | 4 mmol, 0.8 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-amidinocinnamic acid hydrochloride | 3 mmol, 0.7 g | Cl.C(N)(=N)C1=CC=C(C=CC(=O)O)C=C1
reactant | methyl N-(2-aminoethyl)-N-(9-fluorenylmethoxycarbonyl)aminoacetate hydrochloride | 3 mmol, 1.2 g | Cl.NCCN(C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CC(=O)OC
reactant | hydroxybenzotriazole | 3 mmol, 0.4 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Methyl N-(2-(3-(4-(aminoiminomethyl)phenyl)acryloylamino)ethyl)-N-(9-fluorenylmethoxycarbonyl)aminoacetate hydrochloride | Cl.NN=CC1=CC=C(C=C1)C=CC(=O)NCCN(C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CC(=O)OC | InChI=1S/C30H30N4O5.ClH/c1-38-29(36)19-34(17-16-32-28(35)15-14-21-10-12-22(13-11-21)18-33-31)30(37)39-20-27-25-8-4-2-6-23(25)24-7-3-5-9-26(24)27;/h2-15,18,27H,16-17,19-20,31H2,1H3,(H,32,35);1H
